US04742057
To a mixture of 2-amino-4-chloromethylthiazole hydrochloride (5 g), anhydrous pyridine (5 ml) and anhydrous N,N-dimethylformamide (25 ml) was slowly added 3,3-dimethylbutyryl chloride (4.4 g) with stirring at 0° to 3° C. After an hour of stirring, the reaction mixture was poured into ice water. The resulting precipitate was collected, washed with water and dried to give 2-(3,3-dimethylbutyrylamino)-4-chloromethylthiazole (6.62 g).

reactant | 2-amino-4-chloromethylthiazole hydrochloride | 5 g | Cl.NC=1SC=C(N1)CCl
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
reactant | 3,3-dimethylbutyryl chloride | 4.4 g | CC(CC(=O)Cl)(C)C | C6H11ClO
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2-(3,3-dimethylbutyrylamino)-4-chloromethylthiazole | 6.62 g | CC(CC(=O)NC=1SC=C(N1)CCl)(C)C | C10H15ClN2OS
